US06180622B2
Iodomethane (0.468 ml) is added to 43.0 mg of allyl (1R,5S,6S)-2-[(3S,5R)-1-allyloxycarbonyl-5-(imidazo[5,1-b]thiazol-7-yl)methylpyrrolidin-3-yl]thio-6-((1R)-1-hydroxyethyl)-1-methylcarbapen-2-em-3-carboxylate described in Example 34-a), and the mixture is stirred in an argon atmosphere in a light-shielded state at room temperature for 19 hr. The excess reagent is removed by evaporation under reduced pressure to give a crude product of allyl(1R,5S,6S)-2-[(3S,5R)-1-allyloxycarbonyl-5-(6-methylimidazo[5,1-b]thiazolium-7-yl)methylpyrrolidin-3-yl]thio-6-((1R)-1-hydroxyethyl)-1-methylcarbapen-2-em-3-carboxylate iodide. The procedure of Example 11-b) is repeated, except that the whole quantity of the crude product prepared just above is used. Thus, 3.2 mg of the title compound is obtained.

reactant | Iodomethane | 0.468 ml | IC | CH3I
reactant | allyl (1R,5S,6S)-2-[(3S,5R)-1-allyloxycarbonyl-5-(imidazo[5,1-b]thiazol-7-yl)methylpyrrolidin-3-yl]thio-6-((1R)-1-hydroxyethyl)-1-methylcarbapen-2-em-3-carboxylate | 43.0 mg | C(C=C)OC(=O)N1C[C@H](C[C@H]1CC=1N=CN2C1SC=C2)SC=2[C@@H]([C@H]1N(C2C(=O)OCC=C)C([C@@H]1[C@@H](C)O)=O)C | C27H32N4O6S2
product | allyl(1R,5S,6S)-2-[(3S,5R)-1-allyloxycarbonyl-5-(6-methylimidazo[5,1-b]thiazolium-7-yl)methylpyrrolidin-3-yl]thio-6-((1R)-1-hydroxyethyl)-1-methylcarbapen-2-em-3-carboxylate iodide | [I-].C(C=C)OC(=O)N1C[C@H](C[C@H]1CC=1N(C=[N+]2C1SC=C2)C)SC=2[C@@H]([C@H]1N(C2C(=O)OCC=C)C([C@@H]1[C@@H](C)O)=O)C | InChI=1S/C28H35N4O6S2.HI/c1-6-9-37-27(35)23-24(16(3)22-21(17(4)33)25(34)32(22)23)40-19-12-18(31(14-19)28(36)38-10-7-2)13-20-26-30(8-11-39-26)15-29(20)5;/h6-8,11,15-19,21-22,33H,1-2,9-10,12-14H2,3-5H3;1H/q+1;/p-1/t16-,17-,18+,19+,21-,22-;/m1./s1
